US05994372
To a mixture of 35% aqueous methylamine (100 g, 1.13 mol) and Na2CO3 (106 g, 1 mol) in H2O (1000 ml) and toluene (800 ml) was added dropwise 4-bromo-2,2-diphenylbutyroyl chloride (337.5 g, 1.13 mol) in toluene (200 ml), while the temperature was maintained between 0 and 5° C. The mixture was allowed to warm to room temperature and the precipitate was collected by filtration. The solid precipitate was then taken up into CHCl3, the solution was dried (MgSO4), and the solvent was removed in vacuo. The residue was crystallized from i-BuCOMe (iso-butylmethylketone) to afford pure N-(tetrahydro-3,3-diphenyl-2-furylidene)methylamine hydrobromide (223 g, 67%), mp 159-161° C.

reactant | methylamine | 1.13 mol, 100 g | CN | CH5N
reactant | Na2CO3 | 1 mol, 106 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 4-bromo-2,2-diphenylbutyroyl chloride | 1.13 mol, 337.5 g | BrCCC(C(=O)Cl)(C1=CC=CC=C1)C1=CC=CC=C1 | C16H14BrClO
solvent | H2O | 1000 ml | O | H2O
solvent | toluene | 800 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | N-(tetrahydro-3,3-diphenyl-2-furylidene)methylamine hydrobromide | 223 g, 67% | Br.C1(=CC=CC=C1)C1(C(OCC1)=CN)C1=CC=CC=C1 | InChI=1S/C17H17NO.BrH/c18-13-16-17(11-12-19-16,14-7-3-1-4-8-14)15-9-5-2-6-10-15;/h1-10,13H,11-12,18H2;1H
